US08455477B2
6-(1-methyl-1H-pyrazol-4-yl)-4-(pyridin-2-ylmethoxy)pyrazolo[1,5-a]pyridine (10.0 mg, 0.033 mmol) and N-iodosuccinimide (8.8 mg, 0.04 mmol) were dissolved in DMF (1 ml). After 20 minutes, LCMS analysis indicated complete conversion to the iodide. At this time, copper (I) iodide (3.7 mg, 0.02 mmol), tetrakis(triphenylphosphine)palladium (0) (3.8 mg, 3.2 μmol), triethylamine (0.014 ml, 0.098 mmol), and cyclopropylacetylene (6.5 mg, 0.10 mmol) was added, followed by 0.5 mL of DMF to wash down the sides of the flask. The mixture was sparged with argon for 10 minutes then allowed to stir at ambient temperature overnight. The reaction mixture was diluted in ethyl acetate, washed with saturated aqueous sodium hydrogen carbonate and brine then dried over sodium sulfate, filtered and concentrated. The residue was purified by preparative HPLC Reverse phase (C-18), eluting with Acetonitrile/Water+0.05% TFA. The fractions containing product were combined and diluted in ethyl acetate, then washed with aqueous sodium bicarbonate and dried over sodium sulfate. The solution was filtered and concentrated to afford 3-(cyclopropylethynyl)-6-(1-methyl-1H-pyrazol-4-yl)-4-(pyridin-2-ylmethoxy)pyrazolo[1,5-a]pyridine. 1H NMR (500 MHz, DMSO-d6) δ 8.66 (s, 1H); 8.61 (d, 1H); 8.33 (s, 1H); 8.05 (s, 1H); 8.01 (s, 1H); 7.88-7.95 (m, 2H); 7.36-7.40 (m, 1H); 7.15 (s, 1H); 5.38 (s, 2H); 3.86 (s, 3H), 1.51-1.58 (m, 1H); 0.81-0.88 (m, 2H); 0.56-0.60 (m, 2H). LRMS (ESI) calculated for C22H20N5O [M+H]+, 370.2; found 370.1.

reactant | 6-(1-methyl-1H-pyrazol-4-yl)-4-(pyridin-2-ylmethoxy)pyrazolo[1,5-a]pyridine | 0.033 mmol, 10.0 mg | CN1N=CC(=C1)C=1C=C(C=2N(C1)N=CC2)OCC2=NC=CC=C2 | C17H15N5O
reactant | N-iodosuccinimide | 0.04 mmol, 8.8 mg | IN1C(CCC1=O)=O | C4H4INO2
reactant | iodide | [I-]
reactant | triethylamine | 0.098 mmol, 0.014 ml | C(C)N(CC)CC | C6H15N
reactant | cyclopropylacetylene | 0.10 mmol, 6.5 mg | C1(CC1)C#C | C5H6
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
catalyst | copper (I) iodide | 0.02 mmol, 3.7 mg | [Cu]I
catalyst | tris(dibenzylideneacetone)dipalladium | 3.2 μmol, 3.8 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 3-(cyclopropylethynyl)-6-(1-methyl-1H-pyrazol-4-yl)-4-(pyridin-2-ylmethoxy)pyrazolo[1,5-a]pyridine | C1(CC1)C#CC=1C=NN2C1C(=CC(=C2)C=2C=NN(C2)C)OCC2=NC=CC=C2 | C22H19N5O
